US08236826B2
Production of t-butyl 4-[4-(5-nitropyridin-2-yloxy)benzyl]piperazine-1-carboxylate
To a solution of 2-(4-chloromethylphenoxy)-5-nitropyridine (12.32 g, 47 mmol) in DMF (120 mL) were added triethylamine (19.4 mL, 140 mmol) and t-butyl piperazine-1-carboxylate 11.27 g, 61 mmol), and the resulting solution was stirred for 3 hours at 50° C. Water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby yield 11.26 g of the title compound.

reactant | 2-(4-chloromethylphenoxy)-5-nitropyridine | 47 mmol, 12.32 g | ClCC1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C12H9ClN2O3
reactant | triethylamine | 140 mmol, 19.4 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyl piperazine-1-carboxylate | 61 mmol, 11.27 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Water | O | H2O
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | t-butyl 4-[4-(5-nitropyridin-2-yloxy)benzyl]piperazine-1-carboxylate | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H26N4O5
